US07163958B2
48a. 2-((2-Hydroxyethyl)((4-methylphenyl)sulfonyl)amino)ethyl(2S)-2-(6-methoxy(2-naphthyl))propanoate
To a solution of (2S)-2-(6-methoxy(2-naphthyl))propanoic acid (naproxen, 5.0 g, 21.7 mmol), N,N-bis(2-hydroxyethyl)-p-toluenesulfonamide (16.89 g, 65.1 mmol) and N,N-dimethylaminopyridine (DMAP, 0.530 g, 4.34 mmol) in CH2Cl2 (250 mL) and DMF (3 mL) at room temperature was added 1-(3-(dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride (EDAC, 4.99 g, 26.05 mmol). The reaction mixture was stirred overnight at room temperature, and then partitioned between CH2Cl2 and HCl (1N). The aqueous layer was washed with CH2Cl2 and the combined organic extracts were washed with water, brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with EtOAC/hexane (1:1) to give the title compound as a thick oil (7.15 g, 15.16 mmol, 70% yield): 1H NMR (300 MHz, CDCl3) δ 7.73 (d, J=8.6 Hz, 2H), 7.66 (m, 1H), 7.67 (d, J=8.6 Hz, 2H), 7.40 (dd, J=1.7, 8.5 Hz, 1H), 7.29 (d, J=8.1 Hz, 2H), 7.18 (dd, J=2.5, 8.8 Hz, 1H), 7.14 (d, J=2.4 Hz, 1H), 4.28 (m, 2H), 3.95 (s, 3H), 3.88 (q, J=7.2 Hz, 1H), 3.38 (m, 2H), 3.09 (t, J=5.1 Hz, 2H), 2.44 (s, 3H) 2.18 (t, J=6.0 Hz, 1H), 1.61 (d, J=7.2 Hz, 3H). Mass spectrum (API-TIS) m/z 472 (MH+), 489 (M+18+).

reactant | (2S)-2-(6-methoxy(2-naphthyl))propanoic acid | 21.7 mmol, 5.0 g | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)O)C | C14H14O3
reactant | N,N-bis(2-hydroxyethyl)-p-toluenesulfonamide | 65.1 mmol, 16.89 g | OCCN(S(=O)(=O)C1=CC=C(C=C1)C)CCO | C11H17NO4S
reactant | 1-(3-(dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride | 26.05 mmol, 4.99 g | Cl.CN(CCCN=C=NCC)C
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-((2-Hydroxyethyl)((4-methylphenyl)sulfonyl)amino)ethyl(2S)-2-(6-methoxy(2-naphthyl))propanoate | 15.16 mmol, 7.15 g, 70% yield | COC=1C=C2C=CC(=CC2=CC1)[C@@H](C(=O)OCCN(S(=O)(=O)C1=CC=C(C=C1)C)CCO)C | C25H29NO6S
